US09353107B2
Step-iii: N-(5-bromo-2-(2-(dimethylamino) ethoxy)phenyl)methanesulfonamide
Using similar reaction conditions as described in step i of intermediate 17, 5-bromo-2-(2-(dimethylamino)ethoxy)aniline (1.8 g, 6.94 mmol) was mesylated with methanesulfonyl chloride (875 mg, 7.63 mol), pyridine (822 mg, 10.4 mmol), DCM (20 mL) to afford 1.97 g (83.12% yield) of the titled compound. 1H NMR (CDCl3, 300 MHz): δ 7.71-7.0 (d, 1H), 7.2-7.16 (dd, 1H), 6.92-6.89 (d, 1H), 4.07-4.04 (t, 2H), 2.92 (s, 3H), 2.56-2.53 (t, 2H), 2.35 (s, 6H).

reactant | 5-bromo-2-(2-(dimethylamino)ethoxy)aniline | 6.94 mmol, 1.8 g | BrC=1C=CC(=C(N)C1)OCCN(C)C | C10H15BrN2O
reactant | methanesulfonyl chloride | 7.63 mol, 875 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 10.4 mmol, 822 mg | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-2-(2-(dimethylamino) ethoxy)phenyl)methanesulfonamide | 1.97 g, 83.12% yield | BrC=1C=CC(=C(C1)NS(=O)(=O)C)OCCN(C)C | C11H17BrN2O3S
